US07425551B2
a) (S)-2-Fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-malonamic acid ethyl ester
Using (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and (S)-2-fluoro-2-methyl-malonic acid monoethyl ester, the title compound was prepared in the same manner as described for example 1c. Colorless oil (50%). MS: m/e=429(M+H+).

reactant | (S)-7-amino-5-(2-methoxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2 | C17H18N2O2
reactant | (S)-2-fluoro-2-methyl-malonic acid monoethyl ester | C(C)OC([C@@](C(=O)O)(C)F)=O | C6H9FO4
product | (S)-2-Fluoro-N—[(S)-5-(2-methoxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-methyl-malonamic acid ethyl ester | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CCOC)C=CC=C3)C=CC=C2)(C)F)=O | C23H25FN2O5
